US09079911B2
tert-Butyl 5-(3-(2H-1,2,3-triazol-2-yl)picolinoyl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate (491 mg, 1.28 mmol) in DCM (6 mL) was added TFA (3 mL). After stirring for 2 h at room temperature the reaction was complete and concentrated in vacuo. The TFA salt was purified on a Prep Agilent system with a XBridge C18 OBD 50×100 mm column eluting with 5 to 99% 0.05% NH4OH in H2O/ACN over 17 min to afford (3-(2H-1,2,3-triazol-2-yl)pyridin-2-yl)(hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)methanone as a white solid (306 mg, 84%). MS (ESI) mass calculated for C14H16N6O, 284.14; m/z found, 285.0.

reactant | tert-Butyl 5-(3-(2H-1,2,3-triazol-2-yl)picolinoyl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 1.28 mmol, 491 mg | N=1N(N=CC1)C=1C(=NC=CC1)C(=O)N1CC2C(C1)CN(C2)C(=O)OC(C)(C)C | C19H24N6O3
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | (3-(2H-1,2,3-triazol-2-yl)pyridin-2-yl)(hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)methanone | 306 mg, 84% | N=1N(N=CC1)C=1C(=NC=CC1)C(=O)N1CC2CNCC2C1 | C14H16N6O
